US07955664B2
15.5 g (51.5 mmol) of 7-bromo-6-fluoro-3-pentylchroman are dissolved in 85 ml of THF, and 35 ml (55.7 mmol) of a 15 percent solution of n-butyllithium in n-hexane are slowly added at −70° C. After 1 h, 6.3 ml (56.7 mmol) of N-formylpiperidine in 15 ml of THF are added dropwise, and the mixture is stirred for 1 h. The batch is subsequently allowed to thaw, added to water, acidified using dil. hydrochloric acid and extracted three times with MTB ether. The combined org. phases are washed with water and sat. sodium chloride soln. and dried over sodium sulfate, the solvent is removed in vacuo, and the residue is recrystallised from heptane at −25° C., giving 6-fluoro-3-pentylchroman-7-carbaldehyde as colourless crystals (Rf=0.4; 1-chlorobutane).

reactant | 7-bromo-6-fluoro-3-pentylchroman | 51.5 mmol, 15.5 g | BrC1=C(C=C2CC(COC2=C1)CCCCC)F | C14H18BrFO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-formylpiperidine | 56.7 mmol, 6.3 ml | C(=O)N1CCCCC1 | C6H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 85 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-fluoro-3-pentylchroman-7-carbaldehyde | FC=1C=C2CC(COC2=CC1C=O)CCCCC | C15H19FO2
